US04410520
A solution of 3,3-dichloro-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one (20 g) and anhydrous sodium acetate (13.2 g) in glacial acetic acid (250 ml) was hydrogenated at atmospheric pressure using 10% Pd/C (1 g) as catalyst, until the uptake of hydrogen ceased. The catalyst was filtered off and the acetic acid was evaporated under reduced pressure. Water (100 ml) was added to the residue and the suspension stirred for 1 hour. The solid was filtered, washed with water (50 ml), and dried to give 3-chloro-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one, m.p. 162°-163°.

reactant | 3,3-dichloro-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | 20 g | ClC1(C(NC2=C(CC1)C=CC(=C2)OC)=O)Cl | C11H11Cl2NO2
reactant | sodium acetate | 13.2 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 1 g | [Pd] | Pd
product | 3-chloro-8-methoxy-2,3,4,5-tetrahydro-1H-[1]-benzazepin-2-one | ClC1C(NC2=C(CC1)C=CC(=C2)OC)=O | C11H12ClNO2
